// Generated for: spectre
// Generated on: Apr 12 17:28:54 2026
// Design library name: sense_amp_lib
// Design cell name: self_biasing_current_source
// Design view name: schematic
simulator lang=spectre
global 0
parameters Vm2=1.5 Wn_M0=4u Wn_M1=2u Ln=800n Lp=800n Rs=2062 Vac=1 Vdd=3.3 \
    Wp=4u
include "/home/gome0081/Cadence_Repo/cadence/models/ptm_180nm_ss.scs"

// Library name: sense_amp_lib
// Cell name: self_biasing_current_source
// View name: schematic
M1 (net6 net7 net13 0) NMOS w=Wn_M1 l=Ln
M0 (net7 net7 0 0) NMOS w=Wn_M0 l=Ln
M4 (net017 net6 Vin Vin) PMOS w=Wp l=Lp
M3 (net7 net6 Vin Vin) PMOS w=Wp l=Lp
M2 (net6 net6 Vin Vin) PMOS w=Wp l=Lp
Rs2 (net13 0) resistor r=Rs
VDD (Vin 0) vsource dc=Vdd mag=Vac type=dc
V1 (net017 0) vsource dc=Vm2 type=dc
nodeset net6=2.7 net7=0.6 net13=0.3 
ic net6=2.7 net7=0.6 net13=0.3 
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=temp start=-40 stop=140 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save M4:d 
saveOptions options save=allpub
