// Generated for: spectre
// Generated on: Apr 12 15:34:55 2026
// Design library name: sense_amp_lib
// Design cell name: simple_current_source
// Design view name: schematic
simulator lang=spectre
global 0
parameters R_l=1u R_w=1.35m Vm2=0.4 Rs=1.35M Vdd=3.3 Wl=500n Wl2=500n \
    Wn=1u Wn2=1u
include "/home/gome0081/Cadence_Repo/cadence/models/ptm_180nm_ss.scs"

// Library name: sense_amp_lib
// Cell name: simple_current_source
// View name: schematic
M1 (net8 net8 0 0) NMOS w=Wn l=Wl
M2 (Vm2 net8 0 0) NMOS w=Wn2 l=Wl2
Rs1 (Vdc net8) resistor r=Rs l=R_l w=R_w
V1 (Vm2 0) vsource dc=Vm2 mag=1 type=dc
V0 (Vdc 0) vsource dc=Vdd mag=1 type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=temp start=-40 stop=140 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save Vdc M2:d M1:d M2:g M1:g net8 Vm2 
saveOptions options save=allpub
